US03932443
Preparation of N-Cyano-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methyl sulphinyl)ethyl]guanidine
Sodium metaperiodate (1.85 g, 8.68 m.mol.) was added to a stirred, cooled (5°) solution of N-cyano-N'-methyl-N"-[2-((4-methyl-5-imidazolyl) methylthio)ethyl]guanidine (2.085 g, 8.27 m.mol.) in water (83 ml). After 90 minutes stirring at 5° thin layer chromatography indicated almost complete disappearance of starting material. The solution was allowed to stand overnight at room temperature to complete the reaction, then evaporated under reduced pressure to dryness, with azeotroping with n-propanol. The residue was boiled with isopropanol (60 ml), filtered hot, and the filtrate was evaporated to dryness to give the crude product as a glass. This was purified by charcoaling in methanol (40 ml), filtration and dilution with ether to 1500 ml. The liquid was decanted from the flocculent precipitated glass which was kept under a further 1500 ml ether to become semicrystalline, then filtered and allowed to stand overnight in air. The hardened glass was stirred with cold methanol (25 ml) filtered from insoluble crude product and and inorganics (0.28 g. m.p. 190°) and to the filtrate was carefully added ether (to 500 ml) so that two layers formed. On standing undisturbed for three days there separated off white crystals of N-cyano-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methylsulphinyl)ethyl] guanidine (1.55 g), m.p. 185°-186.5°C. Found: C, 44.57; H, 6.08; N, 31.18; S, 11.91%. C10H16N6OS requires C, 44.76; H, 6.01; N, 31.32; S, 11.95%.

reactant | Sodium metaperiodate | 1.85 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | N-cyano-N'-methyl-N"-[2-((4-methyl-5-imidazolyl) methylthio)ethyl]guanidine | 2.085 g | C(#N)NC(=NCCSCC1=C(N=CN1)C)NC | C10H16N6S
solvent | water | 83 ml | O | H2O
product | N-Cyano-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methyl sulphinyl)ethyl]guanidine | C(#N)NC(=NCCS(=O)CC1=C(N=CN1)C)NC | C10H16N6OS
